US05212310
To a solution of 9-Benzoyl-2-(2-fluorophenyl)-7,8,9,10-tetrahydro-imidazo[1,2-c]pyrido[3,4-e] pyrimidin-5(6H)-one (435 mg, 1.1 mmol) in ethanol (5 mL) was added 5 mL of 50% aqueous sodium hydroxide. The mixture was refluxed for about 1 hour, and then poured into saturated aqueous ammonium chloride and extracted twice with 10% methanol/ethyl acetate. The combined organic layers were dried over magnesium sulfate, filtered, concentrated, and triturated with methanol/ether to give 2-(2-fluorophenyl)-7,8,9,10-tetrahydro-imidazo[1,2-c]pyrido[3,4-e]pyrimidin-5(6H)-one, m.p.>310° C.

reactant | 9-Benzoyl-2-(2-fluorophenyl)-7,8,9,10-tetrahydro-imidazo[1,2-c]pyrido[3,4-e] pyrimidin-5(6H)-one | 1.1 mmol, 435 mg | C(C1=CC=CC=C1)(=O)N1CC=2C=3N(C(NC2CC1)=O)C=C(N3)C3=C(C=CC=C3)F | C22H17FN4O2
reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-(2-fluorophenyl)-7,8,9,10-tetrahydro-imidazo[1,2-c]pyrido[3,4-e]pyrimidin-5(6H)-one | FC1=C(C=CC=C1)C=1N=C2N(C(NC3=C2CNCC3)=O)C1 | C15H13FN4O
